US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methylisoxazol-3-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide
To a mixture of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.15 g, 0.37 mmol, 1 eq), amine (0.06 g, 0.43 mmol, 1.2 eq), HOBT (0.084 g, 0.62 mmol, 1.7 eq), EDC.HCl (0.127 g, 0.087 mmol, 1.8 eq) in DCM at ambient temperature under nitrogen was added Diisopropylethylamine (0.239 g, 1.8 mmol, 5.0 eq). The clear mixture was stirred at ambient temperature for 12 h. LCMS showed the desired product. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer is further washed with water, dried over sodium sulphate, filtered and then concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and preparative HPLC. Yield: 0.03 g (20%). 1H NMR (400 MHz, DMSO-d6): δ 1.24-1.29 (m, 4H), 2.29 (s, 3H), 2.32 (s, 3H), 2.81-2.82 (d, 3H, J=4.6 Hz), 6.05 (s, 1H), 7.38-7.44 (m, 4H), 7.57 (d, 1H, J=1.6 Hz), 7.75-7.82 (m, 3H), 7.97-8.0 (m, 2H), 8.46-8.47 (m, 1H), 9.24 (s, 1H). LCMS: (ES+) m/z=524.2 (M+H). LCMS Method: Column: Ascentis Express C18 (5×2.1 mm-2.7 μm). Mphase A: 2% ACN-98% H2O-10 mM NH4COOH. Mphase B: 98% ACN-2% H2O-10 mM NH4COOH. Flow-1 mL/Min

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.37 mmol, 0.15 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | HOBT | 0.62 mmol, 0.084 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.087 mmol, 0.127 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropylethylamine | 1.8 mmol, 0.239 g, 5.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methylisoxazol-3-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C2=NOC(=C2)C)=O)C | C31H26FN3O4
